US07528136B2
d) [(2S,4S)-1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidin-2-yl]-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
The mixture of 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid (65 mg, 0.146 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (54.5.0 mg, 0.292 mmol), N-hydroxybenzotriazole (20.7 mg, 0.146 mmol), and 1-(3-trifluoromethyl-phenyl)-piperazine (29.67 mg, 0.219 mmol), triethylamine (0.08 ml) in dry dichloromethane (2 mL) was stirred overnight, and then concentrated. The residue was purified by preparative HPLC on reversed phase eluting with an acetonitrile/water [0.1% aq NH3 (25%)] gradient to afford the title compound (10.2 mg, 10.6%) as a light yellow oil. MS m/e=659.4 [M+H]+.

reactant | 1-benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidine-2-carboxylic acid | 0.146 mmol, 65 mg | C(C1=CC=CC=C1)N1C(CC(C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O | C21H20F6N2O2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 0.292 mmol | Cl.C(C)N=C=NCCCN(C)C
reactant | N-hydroxybenzotriazole | 0.146 mmol, 20.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-trifluoromethyl-phenyl)-piperazine | 0.219 mmol, 29.67 mg | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | triethylamine | 0.08 ml | C(C)N(CC)CC | C6H15N
product | [(2S,4S)-1-Benzyl-4-(3,5-bis-trifluoromethyl-benzylamino)-pyrrolidin-2-yl]-[4-(3-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | 10.2 mg, 10.6% | C(C1=CC=CC=C1)N1[C@@H](C[C@@H](C1)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)N1CCN(CC1)C1=CC(=CC=C1)C(F)(F)F | C32H31F9N4O
